US09359350B2
(1) Synthesis of 2,6-dichloro-N-methoxy-N-methylnicotinamide [151-1] (hereinafter referred to as a compound [151-1])
To a suspension of 2,6-dichloronicotinic acid (1.92 g), N,O-dimethylhydroxylamine hydrochloride (1.46 g) and triethylamine (2.1 mL) in N,N-dimethylformamide (30 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.30 g), and then the reaction mixture was stirred at room temperature for 4 days. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous solution of potassium hydrogen sulfate and a saturated aqueous solution of sodium hydrogen carbonate and brine. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (1.61 g) as a white solid.

reactant | 2,6-dichloronicotinic acid | 1.92 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.46 g | Cl.CNOC
reactant | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.30 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-dichloro-N-methoxy-N-methylnicotinamide | 1.61 g | ClC1=C(C(=O)N(C)OC)C=CC(=N1)Cl | C8H8Cl2N2O2
